US07745438B2
Butyric acid (R)-3-{[(1R,2S,3S)-2-benzyloxy-3-dibenzylamino-4-(3,5-difluorophenyl)-1-hydroxymethyl-butyl]-tert-butoxycarbonyl-amino}-2-hydroxypropyl ester
Dissolve the butyric acid (R)-3-[(1R,2R,3S)-2-benzyloxy-3-dibenzylamino-4-(3,5-difluorophenyl)-1-hydroxymethyl-butylamino]-2-hydroxypropyl ester mixture (1.06 g, 1.62 mmol) in dry tetrahydrofuran (tetrahydrofuran) (2.5 mL). Add diisopropylethyl amine (0.57 mL, 3.24 mmol) and di-tert-butyl dicarbonate (587 mg, 2.69 mmol) and stir for 3.5 days. Add water (60 mL) and extract the mixture with ethyl acetate (100 mL). Wash the organic layer (60 mL) with water and saturated aqueous sodium chloride (50 mL), dry (magnesium sulfate) and purify (silica gel chromatography, eluting with 25:75 to 45:65 ethyl acetate:hexanes) to give the desired compound as a white foam (479 mg, 39%).

reactant | butyric acid (R)-3-[(1R,2R,3S)-2-benzyloxy-3-dibenzylamino-4-(3,5-difluorophenyl)-1-hydroxymethyl-butylamino]-2-hydroxypropyl ester | 1.62 mmol, 1.06 g | C(C1=CC=CC=C1)O[C@H]([C@@H](CO)NC[C@H](COC(CCC)=O)O)[C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C39H46F2N2O5
reactant | diisopropylethyl amine | 3.24 mmol, 0.57 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 2.69 mmol, 587 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | Butyric acid (R)-3-{[(1R,2S,3S)-2-benzyloxy-3-dibenzylamino-4-(3,5-difluorophenyl)-1-hydroxymethyl-butyl]-tert-butoxycarbonyl-amino}-2-hydroxypropyl ester | 479 mg, 39% | C(C1=CC=CC=C1)O[C@H]([C@@H](CO)N(C[C@H](COC(CCC)=O)O)C(=O)OC(C)(C)C)[C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C44H54F2N2O7
